US05175166
1-Triphenylmethyl-1,4,5,6-tetrahydro-5-(3-methyl-1,2,4-oxadiazol-5-yl)pyrimidine
Sodium hydride (60% dispersion in mineral oil 26 mg, 0.65 mmol) and acetamidoxime (48 mg, 0.65 mmol) were suspended in dry THF (4 ml) in an oven dried round bottom flask with stirring under nitrogen at 0° C. After 15 minutes stirring the ice bath was removed and the grey suspension refluxed 45 minutes to give a white suspension. 1-Triphenylmethyl-1,4,5,6-tetrahydro-5-methoxycarbonylpyrimidine (250 mg, 0.65 mmol) was added dissolved in dry THF (3 ml) and reflux continued 18 hours. The solvents were evaporated in vacuo and the residue taken up in water (10 ml). The aqueous suspension was extracted exhaustively with chloroform and the organics dried over MgSO4. After evaporation the organic residue was chromatographed (silica, chloroform/methanol, 9:1) to yield 93 mg (rf=0.26, 35%) white crystals, mp 72°-74° C. identified by 300 MHz nmr and ms m/z=408. Calculated: C 76.44, H 5.9, N 13.7; found: C 76.27, H 6.06, N 13.59.

reactant | Sodium hydride | 0.65 mmol, 26 mg | [H-].[Na+]
reactant | acetamidoxime | 0.65 mmol, 48 mg | C(C)(N)=NO | C2H6N2O
reactant | 1-Triphenylmethyl-1,4,5,6-tetrahydro-5-methoxycarbonylpyrimidine | 0.65 mmol, 250 mg | C1(=CC=CC=C1)C(N1C=NCC(C1)C(=O)OC)(C1=CC=CC=C1)C1=CC=CC=C1 | C25H24N2O2
solvent | THF | 4 ml | C1CCOC1 | C4H8O
solvent | THF | 3 ml | C1CCOC1 | C4H8O
product | 1-Triphenylmethyl-1,4,5,6-tetrahydro-5-(3-methyl-1,2,4-oxadiazol-5-yl)pyrimidine | C1(=CC=CC=C1)C(N1C=NCC(C1)C1=NC(=NO1)C)(C1=CC=CC=C1)C1=CC=CC=C1 | C26H24N4O
